US07132443B2
A. 3-(4-Fluorophenyl)propan-1-ol.
To a THF (200 mL) solution containing 3-(4-fluorophenyl)propanoic acid (33.6 g, 0.2 mol) was added a 1.0 M solution of LiAlH4 in Et2O (200 mL, 0.2 mol) over a period of 0.5 h. The resulting mixture was allowed to stir at RT for 18 h. The reaction was slowly quenched with H2O and the aqueous layer extracted (1×) with Et2O. The combined organic extracts were dried over MgSO4 and concentrated in vacuo. The resulting oil was used in the next step without further purification. Isolated 31.4 g (0.2 mol, 100% yield).

reactant | 3-(4-fluorophenyl)propanoic acid | 0.2 mol, 33.6 g | FC1=CC=C(C=C1)CCC(=O)O | C9H9FO2
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | Et2O | 0.2 mol, 200 mL | CCOCC | C4H10O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 3-(4-Fluorophenyl)propan-1-ol | 100% yield | FC1=CC=C(C=C1)CCCO | C9H11FO
